US07105567B2
By the reaction and treatment in the same manner as in Example 62 using [(1-heptylpyrazol-4-yl)methyl](4-isopropylphenyl)amine (1.1 g) and 2,6-diisopropylphenyl isocyanate (1.13 mL) as starting materials, N′-(2,6-diisopropylphenyl)-N-[(1-heptylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)urea (1.35 g) was obtained.

reactant | [(1-heptylpyrazol-4-yl)methyl](4-isopropylphenyl)amine | 1.1 g | C(CCCCCC)N1N=CC(=C1)CNC1=CC=C(C=C1)C(C)C | C20H31N3
reactant | 2,6-diisopropylphenyl isocyanate | 1.13 mL | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
product | N′-(2,6-diisopropylphenyl)-N-[(1-heptylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)urea | 1.35 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(N(C1=CC=C(C=C1)C(C)C)CC=1C=NN(C1)CCCCCCC)=O | C33H48N4O
